### PR TITLE
[Merged by Bors] - feat: port Algebra.Hom.NonUnitalAlg

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Hom/NonUnitalAlg.lean [hunk 1]
```diff
@@ -0,0 +1,448 @@
...
+
+Note that much of this is copied from [`LinearAlgebra/Prod`](../../LinearAlgebra/Prod). -/
+
+
+section Prod
+
+variable (R A B)
+
+/-- The first projection of a product is a non-unital alg_hom. -/
+@[simps]
```
Comment (ocfnash) [inline Mathlib/Algebra/Hom/NonUnitalAlg.lean:314]:
```suggestion
```

File: Mathlib/Algebra/Hom/NonUnitalAlg.lean [hunk 2]
```diff
@@ -0,0 +1,448 @@
...
+def fst : A × B →ₙₐ[R] A where
+  toFun := Prod.fst
+  map_zero' := rfl
+  map_add' _ _ := rfl
+  map_smul' _ _ := rfl
+  map_mul' _ _ := rfl
+#align non_unital_alg_hom.fst NonUnitalAlgHom.fst
+
```
Comment (ocfnash) [inline Mathlib/Algebra/Hom/NonUnitalAlg.lean:322]:
```suggestion

@[simp] lemma fst_apply (x : A × B) : fst R A B x = x.1 := rfl

```

File: Mathlib/Algebra/Hom/NonUnitalAlg.lean [hunk 3]
```diff
@@ -0,0 +1,448 @@
...
+/-- The second projection of a product is a non-unital alg_hom. -/
+@[simps]
```
Comment (ocfnash) [inline Mathlib/Algebra/Hom/NonUnitalAlg.lean:324]:
```suggestion
```

File: Mathlib/Algebra/Hom/NonUnitalAlg.lean [hunk 4]
```diff
@@ -0,0 +1,448 @@
...
+def snd : A × B →ₙₐ[R] B where
+  toFun := Prod.snd
+  map_zero' := rfl
+  map_add' _ _ := rfl
+  map_smul' _ _ := rfl
+  map_mul' _ _ := rfl
+#align non_unital_alg_hom.snd NonUnitalAlgHom.snd
+
```
Comment (ocfnash) [inline Mathlib/Algebra/Hom/NonUnitalAlg.lean:332]:
```suggestion

@[simp] lemma snd_apply (x : A × B) : snd R A B x = x.2 := rfl

```

File: Mathlib/Algebra/Hom/NonUnitalAlg.lean [hunk 5]
```diff
@@ -0,0 +1,448 @@
...
+variable {R A B}
+
+/-- The prod of two morphisms is a morphism. -/
+@[simps]
```
Comment (ocfnash) [inline Mathlib/Algebra/Hom/NonUnitalAlg.lean:336]:
```suggestion
```

File: Mathlib/Algebra/Hom/NonUnitalAlg.lean [hunk 6]
```diff
@@ -0,0 +1,448 @@
...
+def prod (f : A →ₙₐ[R] B) (g : A →ₙₐ[R] C) : A →ₙₐ[R] B × C
+    where
+  toFun := Pi.prod f g
+  map_zero' := by simp only [Pi.prod, Prod.zero_eq_mk, map_zero]
+  map_add' x y := by simp only [Pi.prod, Prod.mk_add_mk, map_add]
+  map_mul' x y := by simp only [Pi.prod, Prod.mk_mul_mk, map_mul]
+  map_smul' c x := by simp only [Pi.prod, Prod.smul_mk, map_smul, RingHom.id_apply]
+#align non_unital_alg_hom.prod NonUnitalAlgHom.prod
+
```
Comment (ocfnash) [inline Mathlib/Algebra/Hom/NonUnitalAlg.lean:345]:
```suggestion

@[simp] lemma prod_apply (f : A →ₙₐ[R] B) (g : A →ₙₐ[R] C) (a : A) : prod f g a = Pi.prod f g a :=
 rfl


```

File: Mathlib/Algebra/Hom/NonUnitalAlg.lean [hunk 7]
```diff
@@ -0,0 +1,448 @@
...
+variable [NonUnitalNonAssocSemiring B] [DistribMulAction R B]
+
+variable [NonUnitalNonAssocSemiring C] [DistribMulAction R C]
+
+-- Porting note: Replaced with FunLike instance
+-- /-- see Note [function coercion] -/
+-- instance : CoeFun (A →ₙₐ[R] B) fun _ => A → B :=
+--   ⟨toFun⟩
+
```
Comment (ocfnash) [inline Mathlib/Algebra/Hom/NonUnitalAlg.lean:122]: I don't understand Mathlib4 coercions properly yet. Are we supposed to add something like this here:
```suggestion

attribute [coe] toMulHom
attribute [coe] toDistribMulActionHom

```

**Review by ocfnash — COMMENTED** [review]
There are currently no build errors but six linter errors, all from the `simpNF` linter. These six come in pairs associated to the definitions of `NonUnitalAlgHom.fst`, `NonUnitalAlgHom.snd`, `NonUnitalAlgHom.prod`.

The errors can be solved by writing three `simp` lemmas manually instead of using `simps` (as shown in suggestions). It would be good to know if this is a limitation of `simps` or a case of pilot error.

In particular it would be good to understand why `simps` is generating lemmas of the form:
```lean
NonUnitalAlgHom.fst_toDistribMulActionHom_toMulActionHom_toFun
```

**Comment by fpvandoorn** [comment]
> There are currently no build errors but six linter errors, all from the `simpNF` linter. These six come in pairs associated to the definitions of `NonUnitalAlgHom.fst`, `NonUnitalAlgHom.snd`, `NonUnitalAlgHom.prod`.
> 
> The errors can be solved by writing three `simp` lemmas manually instead of using `simps` (as shown in suggestions). It would be good to know if this is a limitation of `simps` or a case of pilot error.
> 
> In particular it would be good to understand why `simps` is generating lemmas of the form:
> 
> ```lean
> NonUnitalAlgHom.fst_toDistribMulActionHom_toMulActionHom_toFun
> ```

The `initialize_simps_projections` needs a `-toDistribMulActionHom` argument. Also, you probably want to define a custom `NonUnitalAlgHom.Simps.apply`. Mimic the code of `MonoidHom` or something. Or merge #2045, after which these things will happen automatically.

File: Mathlib/Algebra/Hom/NonUnitalAlg.lean (hunk 7 above)
Comment (jcommelin) [reply Mathlib/Algebra/Hom/NonUnitalAlg.lean:122]: @eric-wieser you seem to understand coercions... what do you think?

Afaict, this is the only remaining issue. The rest lgtm.

Comment (eric-wieser) [reply Mathlib/Algebra/Hom/NonUnitalAlg.lean:122]: I suspect that doesn't actually help, because these projections aren't actually used to define coercions anywhere. The coercion is actually going via a `CoeTC F (mul_hom A B)` instance elsewhere that doesn't use the projection, but takes the whole thing apart and puts it back together again instead. I think right now that's implemented inline, so there is nothing to tag with a `coe`, and the coercion unfolds to a constructor application.

**Comment by ocfnash** [comment]
Thanks @fpvandoorn

What do we need to do to get https://github.com/leanprover-community/mathlib4/pull/2045 / https://github.com/leanprover-community/mathlib4/pull/2042 merged? Are they just waiting for a review?

File: Mathlib/Algebra/Hom/NonUnitalAlg.lean (hunk 7 above)
Comment (ocfnash) [reply Mathlib/Algebra/Hom/NonUnitalAlg.lean:121]: Thanks, I think I'm beginning to understand.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge

File: Mathlib/Algebra/Hom/NonUnitalAlg.lean [hunk 8]
```diff
@@ -0,0 +1,444 @@
...
+  h ▸ rfl
+#align non_unital_alg_hom.congr_fun NonUnitalAlgHom.congr_fun
+
+@[simp]
+theorem coe_mk (f : A → B) (h₁ h₂ h₃ h₄) : ⇑(⟨⟨⟨f, h₁⟩, h₂, h₃⟩, h₄⟩ : A →ₙₐ[R] B)  = f :=
+  rfl
+#align non_unital_alg_hom.coe_mk NonUnitalAlgHom.coe_mk
+
+@[simp]
+theorem mk_coe (f : A →ₙₐ[R] B) (h₁ h₂ h₃ h₄) : (⟨⟨⟨f, h₁⟩, h₂, h₃⟩, h₄⟩ : A →ₙₐ[R] B) = f := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Hom/NonUnitalAlg.lean:177]:
```suggestion
theorem mk_coe (f : A →ₙₐ[R] B) (h₁ h₂ h₃ h₄) : (⟨⟨⟨f, h₁⟩, h₂, h₃⟩, h₄⟩ : A →ₙₐ[R] B) = f :=
```
and similarly elsewhere
